US08563575B2
A mixture of 3-[4-(benzyloxy)phenyl]-6-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (0.64 g), iodoethane (0.20 mL) and cesium carbonate (1.26 g) in DMF (5 mL) was stirred at 50° C. for 4 h. After stirring at room temperature over weekend, the mixture was poured into water, and the mixture was extracted with AcOEt. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo to give 3-[4-(benzyloxy)phenyl]-1-ethyl-6-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (0.68 g) as a brown oil.

reactant | 3-[4-(benzyloxy)phenyl]-6-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 0.64 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(NC=2C1=NC=C(C2)C)=O | C20H17N3O2
reactant | iodoethane | 0.20 mL | ICC | C2H5I
reactant | cesium carbonate | 1.26 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-[4-(benzyloxy)phenyl]-1-ethyl-6-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 0.68 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=C(C2)C)CC)=O | C22H21N3O2
